US04992432
A mixture of 0.5 g (0.001 mol) of rac-cis-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl)-4[2-(dimethylamino)ethyl]-3-phenyl-1,4-thiazepin-5(4H)-one and 5 mL of ethyl acetate saturated with hydrogen chloride was stirred at room temperature for 17 hours. The solvent was removed under reduced pressure and the residue was partitioned between water and ammonium hydroxide. The ethyl acetate solution was washed with brine, dried (MgSO4) and removal of the solvent gave 0.3 g (67%) of rac.-cis-6,7-dihydro-6-hydroxy-7-(4-methoxyphenyl)-4-[2(dimethylamino) ethyl]-3-phenyl-1,4-thiazepin-5(4H)-one. Analytical sample was crystallized from ethyl acetate, mp 159°-160°.

reactant | rac-cis-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl)-4[2-(dimethylamino)ethyl]-3-phenyl-1,4-thiazepin-5(4H)-one | 0.001 mol, 0.5 g | C(C)(=O)O[C@@H]1C(N(C(=CS[C@@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1)CCN(C)C)=O | C24H28N2O4S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | rac.-cis-6,7-dihydro-6-hydroxy-7-(4-methoxyphenyl)-4-[2(dimethylamino) ethyl]-3-phenyl-1,4-thiazepin-5(4H)-one | 0.3 g, 67% | O[C@@H]1C(N(C(=CS[C@@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1)CCN(C)C)=O | C22H26N2O3S
